US03984467
Following a procedure similar to that described in Example 42 but using 2.3 g. sodium in 300 ml. dry acetone, 16.5 g. heptanamidine hydrochloride, and 29.3 g. 2,4-dibromophenyl isothiocyanate (m.p. 68°-70°C.; prepared from 2,4 -dibromoaniline) in 100 ml. dry acetone there was obtained 1-(2,4-dibromophenyl)-3-(heptanimidoyl)-2-thiourea, m.p. 86°-88°C. (from benzene-n-hexane); hydrochloride (14 g.), m.p. 164°-165°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 2,4-dibromophenyl isothiocyanate | BrC1=C(C=CC(=C1)Br)N=C=S | C7H3Br2NS
solvent | benzene n-hexane | C1=CC=CC=C1.CCCCCC
product | 1-(2,4-dibromophenyl)-3-(heptanimidoyl)-2-thiourea | BrC1=C(C=CC(=C1)Br)NC(=S)NC(CCCCCC)=N | C14H19Br2N3S
